US07405302B2
Step 1: 3-Formyl-5-methoxypyridine
To a solution of 3-Bromo-5-methoxypyridine (2.5 g, 13.3 mmol) in anhydrous diethyl ether cooled to −100° C. was added n-butyllithium (2.5M soln in hexanes: 5.85 mL, 14.6 mmol) dropwise whilst maintaining an internal temperature <−94° C. After subsequent stirring for 30 minutes, anhydrous DMF (1.34 mL, 17.3 mmol) was added and the reaction mixture allowed to warm to −60° C.. The solution was then poured into sat'd. aq. NaCl soln. and extracted with diethyl ether (3×100 mL), the ethereal phase dried (K2CO3), filtered and evaporated in vacuo. The residue was purified on silica gel eluting with a gradient of 0 to 30% EtOAc in hexanes to afford the title material as an oil.

reactant | 3-Bromo-5-methoxypyridine | 13.3 mmol, 2.5 g | BrC=1C=NC=C(C1)OC | C6H6BrNO
reactant | n-butyllithium | C(CCC)[Li]
reactant | DMF | 17.3 mmol, 1.34 mL | CN(C)C=O | C3H7NO
reactant | NaCl | [Na+].[Cl-]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Formyl-5-methoxypyridine | C(=O)C=1C=NC=C(C1)OC | C7H7NO2
